US06756378B2
To a stirred solution of methyl 4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3,5-dichlorobenzoate (988 mg, 3.248 mmol) in CH2Cl2 (20 mL) was added TFA (5 mL) at 0° C., and the reaction mixture was stirred at room temp for 2 hr. The solvent was removed under a reduced pressure and the residue was treated with 1N NaOH. The solution was extracted with CHCl3. The extract was washed with brine, dried over Na2SO4, and concentrated under a reduced pressure to afford 672 mg (68%) methyl 3,5-dichloro-4-(2-pyrrolidinyl)methoxybenzoate as a pale yellowish oil. 1H-NMR (400 MHz, CDCl3) δ1.62-1.69 (m, 1H), 1.78-1.86 (m, 2H), 1.89-199 (m, 1H), 2.92-2.98 (m, 1H), 3.04-3.09 (m, 1H), 3.55-3.60 (m, 1H), 3.91 (s, 3H), 4.01 (dd, J=6.8, 8.8 Hz, 1H), 4.08 (dd, J=4.9, 8.8 Hz, 1H), 7.97 (s, 2H); MS (FAB) m/z 304 (M++1).

reactant | methyl 4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3,5-dichlorobenzoate | 3.248 mmol, 988 mg | C(C)(C)(C)OC(=O)N1C(CCC1)COC1=C(C=C(C(=O)OC)C=C1Cl)Cl | C18H23Cl2NO5
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl 3,5-dichloro-4-(2-pyrrolidinyl)methoxybenzoate | 672 mg, 68% | ClC=1C=C(C(=O)OC)C=C(C1OCC1NCCC1)Cl | C13H15Cl2NO3
